US09340538B2
2-(4-((6-(2-chloro-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)acetic acid
Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.18 g, 0.39 mmol) was reacted with 2-(morpholin-3-yl)acetic acid hydrochloride (0.07 g, 0.39 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a light yellow solid (0.14 g, 67%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.39 mmol, 0.18 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)F)Cl)C(=O)OCC | C17H14BrClFN3O2S
reactant | 2-(morpholin-3-yl)acetic acid hydrochloride | 0.39 mmol, 0.07 g | Cl.N1C(COCC1)CC(=O)O
product | 2-(4-((6-(2-chloro-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)acetic acid | 0.14 g, 67% | ClC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)CC(=O)O)C(=O)OCC | C23H24ClFN4O5S
